US07645789B2
A mixture of (E)-ethyl 5-(2-(dimethylamino)vinyl)-2,4-dinitrobenzoate (15 g, 0.050 mol) and Raney Nickel (5 g) in EtOH (500 mL) was hydrogenated at room temperature under 50 psi of hydrogen for 2 h. The catalyst was filtered off and the filtrate was concentrated to dryness. The residue was purified by column on silica gel to give ethyl 6-amino-1H-indole-5-carboxylate (3.0 g, 30%). 1H NMR (DMSO-d6) δ 10.68 (s, 1H), 7.99 (s, 1H), 7.01-7.06 (m, 1H), 6.62 (s, 1H), 6.27-6.28 (m, 1H), 6.16 (s, 2H), 4.22 (q, J=7.2 Hz, 2H), 1.32-1.27 (t, J=7.2 Hz, 3H).

reactant | (E)-ethyl 5-(2-(dimethylamino)vinyl)-2,4-dinitrobenzoate | 0.050 mol, 15 g | CN(/C=C/C=1C(=CC(=C(C(=O)OCC)C1)[N+](=O)[O-])[N+](=O)[O-])C | C13H15N3O6
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 5 g | [Ni] | Ni
solvent | EtOH | 500 mL | CCO | C2H6O
product | ethyl 6-amino-1H-indole-5-carboxylate | 3.0 g, 30% | NC1=C(C=C2C=CNC2=C1)C(=O)OCC | C11H12N2O2
